US04980464
In 1 ml of formamide were dissolved 413 mg of 7β-[2-(2-aminothiazole-4-yl)-2-(Z)-methoxyiminoacetamido]-3-hydroxymethyl-3-cephem-4 -carboxylic acid and 354 mg of imidazo[1.5-a]pyridine. To the solution were added 1 ml of acetonitrile and 0.86 ml of triethyl phosphite, and the mixture was stirred at 20 to 25° C. for 10 hours. The resultant product was treated by the manner of Example 32 to give 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-(imidazo [1,5-a]pyridinium-2-yl)methyl-3-cephem-4-carboxylate.

reactant | 7β-[2-(2-aminothiazole-4-yl)-2-(Z)-methoxyiminoacetamido]-3-hydroxymethyl-3-cephem-4 -carboxylic acid | 413 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O)=N/OC | C14H15N5O6S2
reactant | imidazo[1.5-a]pyridine | 354 mg | C=1N=CN2C1C=CC=C2 | C7H6N2
reactant | acetonitrile | 1 ml | C(C)#N | C2H3N
reactant | triethyl phosphite | 0.86 ml | P(OCC)(OCC)OCC | C6H15O3P
solvent | formamide | 1 ml | C(=O)N | CH3NO
product | 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-(imidazo [1,5-a]pyridinium-2-yl)methyl-3-cephem-4-carboxylate | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CN3C(C=CC=C3)=C2)C(=O)[O-])C1=O)=N/OC | C21H19N7O5S2
